US07910592B2
A mixture of 5-iodo-4-methyl-2-(trifluoromethyl)pyridine (39.1 mg, 0.136 mmol), N-bromosuccinimide (29.1 mg, 0.163 mmol), and benzoyl peroxide (3.3 mg, 0.0136 mmol) in CCl4 (1 mL) was heated at reflux under N2 overnight. Water was added and the mixture was extracted with CH2Cl2 (3×20 mL). The combined extracts were dried (MgSO4) and concentrated in vacuo to give the crude product. This was purified by flash chromatography (Si, 12×160 mm, 1-5% EtOAc in hexanes gradient) to afford 4-(bromomethyl)-5-iodo-2-(trifluoromethyl)pyridine. Rf=0.41 (10% EtOAc/hexanes). 1H NMR (600 MHz, CDCl3): δ 9.03 (s, 1H); 7.76 (s, 1H); 4.51 (s, 3H).

reactant | 5-iodo-4-methyl-2-(trifluoromethyl)pyridine | 0.136 mmol, 39.1 mg | IC=1C(=CC(=NC1)C(F)(F)F)C | C7H5F3IN
reactant | N-bromosuccinimide | 0.163 mmol, 29.1 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | benzoyl peroxide | 0.0136 mmol, 3.3 mg | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
reactant | Water | O | H2O
solvent | CCl4 | 1 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | 4-(bromomethyl)-5-iodo-2-(trifluoromethyl)pyridine | BrCC1=CC(=NC=C1I)C(F)(F)F | C7H4BrF3IN
